data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)cc1C(C)C.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1C(C)C"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1C(C)C", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1C(C)C.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1C(C)C", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2C(C)C)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2C(C)C)C(=N)C=C1", "products": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)cc1C(C)C"}, {"reactants": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)cc1C(C)C", "products": "COc1cc2c(cc1C(C)C)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(cc1C(C)C)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc2c(cc1C(C)C)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(cc1C(C)C)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc2c(cc1C(C)C)[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(cc1C(C)C)[NH+]=CC2c1ccccc1", "products": "COc1cc2c(-c3ccccc3)c[nH]c2cc1C(C)C.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "ON[C@@H]1C(Cl)[C@H](CF)C[C@H]2CC=CC[C@H]21.C=O", "products": "[O-]C[NH+](O)[C@@H]1C(Cl)[C@H](CF)C[C@H]2CC=CC[C@H]21"}, {"reactants": "[O-]C[NH+](O)[C@@H]1C(Cl)[C@H](CF)C[C@H]2CC=CC[C@H]21", "products": "OCN(O)[C@@H]1C(Cl)[C@H](CF)C[C@H]2CC=CC[C@H]21"}, {"reactants": "OCN(O)[C@@H]1C(Cl)[C@H](CF)C[C@H]2CC=CC[C@H]21", "products": "C=[N+](O)[C@@H]1C(Cl)[C@H](CF)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(Cl)[C@H](CF)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(Cl)[C@H](CF)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(Cl)[C@H](CF)C[C@H]2CC=CC[C@H]21", "products": "FC[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1Cl"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1ccccc1Cl", "products": "COC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccccc1Cl"}, {"reactants": "COC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccccc1Cl", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1ccccc1Cl"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1ccccc1Cl", "products": "COC(O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1)c1ccccc1Cl"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1c(F)cc(NN=CCc2ccccc2)cc1F.Cl[Zn]Cl", "products": "COc1c(F)cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1F"}, {"reactants": "COc1c(F)cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1F", "products": "COc1c(F)cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1F.[H+]"}, {"reactants": "COc1c(F)cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1F", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(F)cccc2F)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(F)cccc2F)C(=N)C=C1", "products": "COc1c(F)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1F"}, {"reactants": "COc1c(F)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1F", "products": "COc1c(F)cc2c(c1F)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1c(F)cc2c(c1F)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1c(F)cc2c(c1F)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1c(F)cc2c(c1F)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1c(F)cc2c(c1F)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1c(F)cc2c(c1F)C(c1ccccc1)C=[NH+]2", "products": "COc1c(F)cc2[nH]cc(-c3ccccc3)c2c1F.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1c(Cl)cc(F)cc1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1c(Cl)cc(F)c[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1c(Cl)cc(F)c[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(Cl)cc(F)cc21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(Cl)cc(F)cc21", "products": "CN1C(=O)C2(C=CCC2)c2c(Cl)cc(F)cc21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(OC)ccc1OC)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(OC)ccc1OC)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(OC)ccc1OC)C(C)C", "products": "COc1ccc(OC)c([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1"}, {"reactants": "COc1ccc(OC)c([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1", "products": "COc1ccc(OC)c([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1"}, {"reactants": "COc1ccc(OC)c([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1ccc(OC)c([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1"}, {"reactants": "COc1ccc(OC)c([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1", "products": "COc1ccc(OC)c([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1.[Rh]"}]}
